US07153849B2
(2S)-2-{[4-(3-chlorophenyl)piperazin-1-yl]methyl}-8-methyl-2,3-dihydro[1,4]dioxino[2,3-f]quinoline
A mixture of [(2R)-8-methyl-2,3-dihydro[1,4]dioxino[2,3-f]quinolin-2-yl]methyl 4-bromobenzenesulfonate (647 mg, 1.44 mmol), 3-chlorophenyl-piperazine hydrochloride (1.0 g, 4.3 mmol) and diisopropylethylamine (0.75 mL, 4.3 mmol) in anhydrous DMSO (6 mL) were heated at 50° C. overnight. The cooled reaction mixture was diluted with saturated aqueous sodium bicarbonate (10 mL) and extracted with ethyl acetate (3×10 mL). The combined organic layers were washed with brine (3×30 mL), dried over MgSO4, filtered, and concentrated in vacuo. Flash chromatography on silica gel (5% MeOH/CH2Cl) afforded 280 mg (68%) of the desired product as a beige solid: mp 110–112° C.; MS (ESI) m/z nnn [M+H]+.

reactant | [(2R)-8-methyl-2,3-dihydro[1,4]dioxino[2,3-f]quinolin-2-yl]methyl 4-bromobenzenesulfonate | 1.44 mmol, 647 mg | BrC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1COC=2C(=C3C=CC(=NC3=CC2)C)O1 | C19H16BrNO5S
reactant | 3-chlorophenyl-piperazine hydrochloride | 4.3 mmol, 1.0 g | Cl.ClC=1C=C(C=CC1)N1CCNCC1
reactant | diisopropylethylamine | 4.3 mmol, 0.75 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMSO | 6 mL | CS(=O)C | C2H6OS
solvent | sodium bicarbonate | 10 mL | C([O-])(O)=O.[Na+]
product | (2S)-2-{[4-(3-chlorophenyl)piperazin-1-yl]methyl}-8-methyl-2,3-dihydro[1,4]dioxino[2,3-f]quinoline | 280 mg, 68% | ClC=1C=C(C=CC1)N1CCN(CC1)C[C@H]1COC=2C(=C3C=CC(=NC3=CC2)C)O1 | C23H24ClN3O2
